US05204473
N-(1-heptyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-dodecyl succinimide
The procedure of Example 75 is repeated using 1-heptyloxy-4-amino-2,2,6,6-tetramethylpiperidine and n-dodecyl succinic anhydride to afford the title compound.

reactant | 1-heptyloxy-4-amino-2,2,6,6-tetramethylpiperidine | C(CCCCCC)ON1C(CC(CC1(C)C)N)(C)C | C16H34N2O
reactant | n-dodecyl succinic anhydride | C(CCCCCCCCCCC)C1C(=O)OC(C1)=O | C16H28O3
product | N-(1-heptyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-dodecyl succinimide | C(CCCCCC)ON1C(CC(CC1(C)C)N1C(C(CC1=O)CCCCCCCCCCCC)=O)(C)C | C32H60N2O3
